US08049016B2
Synthesis of (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid and 2-(1H-Benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (H BTU) with (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid and 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU), the title compound was obtained as a colorless solid in 67% yield: mp 192-194° C. (ethyl acetate/diethyl ether); 1H NMR (300 MHz, DMSO-d6) δ 7.40-7.32 (m, 4H), 7.18 (dd, J=8.8, 8.8 Hz, 2H), 4.59 (d, J=15.6 Hz, 1H), 4.30 (d, J=15.6 Hz, 1H), 4.18 (dd, J=10.0, 9.1 Hz, 1H), 3.79-3.68 (m, 1H), 3.54 (dd, J=10.0, 6.8 Hz, 1H), 2.45 (s, 3H), 1.22 (d, J=6.2 Hz, 3H); 13C NMR (75 MHz, DMSO-d6) δ 163.5, 161.5 (d, 1JC-F=243 Hz), 157.3, 154.9, 150.7, 133.1 (d, 4JC-F=3 Hz), 129.9 (d, 3JC-F=8 Hz), 118.5, 115.4 (d, 2JC-F=2, Hz), 49.4, 48.6, 43.7, 18.4, 17.0; MS (ES+) m/z 348.8 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | 2-(1H-Benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
product | (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 67% yield | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)N)=O)C=C1 | C16H17FN4O2S
